US04616086
n-Butyl 3-{4-[1-(4-chlorobenzyl)-piperazin-4-yl]-phenyl}-propionate
A mixture of 20.0 g. (68.8 mmole) n-butyl 3-[4-(piperazin-1-yl)-phenyl]-propionate, 200 ml. acetonitrile, 10.4 g. (75.6 mmole) pulverised potassium carbonate and 12.2 g. (75.6 mmole) 4-chlorobenzyl chloride is heated for 36 hours at reflux temperature, filtered with suction and the filtrate evaporated. The residue is taken up in diethyl ether and the hydrochloride precipitated out by adding hydrogen chloride-containing diethyl ether. It is filtered off with suction, recrystallised from isopropanol and dried. Yield 29.0 g. (87% of theory) of hydrochloride; m.p. 222°-225° C.

reactant | n-butyl 3-[4-(piperazin-1-yl)-phenyl]-propionate | 68.8 mmole | N1(CCNCC1)C1=CC=C(C=C1)CCC(=O)OCCCC | C17H26N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzyl chloride | 75.6 mmole | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | n-Butyl 3-{4-[1-(4-chlorobenzyl)-piperazin-4-yl]-phenyl}-propionate | ClC1=CC=C(CN2CCN(CC2)C2=CC=C(C=C2)CCC(=O)OCCCC)C=C1 | C24H31ClN2O2
